US06262103B1
Step 2: 6,6-Dimethyl-3-((2-hydroxyethyl)thio)-1-(pyrid-2-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one
6,6-Dimethyl-3-methanesulphinyl-1-(pyrid-2-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one (160 mg, 0.5 mmol) was suspended in ethanol (5 mL) and 4M sodium hydroxide solution (138 μL, 0.55 mmol) was added. 2-Mercaptoethanol (43 mg, 0.55 mmol) was added and the suspension was stirred at 20° C. for 2 h. After this time, further 2-mercaptoethanol (10 mg, 0.12 mmol) and 4M sodium hydroxide solution (35 μL, 0.12 mmol) was added and the mixture stirred for a further 2 h. The mixture was then diluted with ethyl acetate and 1M HCL (1 mL) was added. The ethyl acetate layer was washed with water, dried (Na2SO4), then evaporated to dryness. The residue was purified by chromatographed on silica gel, eluting with ethyl acetate, to yield the title compound as a pale yellow solid (58 mg, 36%). mp 175-177° C. Found: C, 61.18; H, 5.62; N, 3.97%. C17H19NO2S2 requires: C, 61.26; H, 5.70; N, 4.20%. 1HNMR (360 MHz, CDCl3)δ 1.08 (6H, s), 2.45 (2H, s), 2.93 (2H, s), 3.33 (2H, t, J=7.2 Hz), 3.98-4.02 (2H, m), 7.16-7.20 (1H, m), 7.46-7.49 (1H, m), 7.72-7.76 (1H, m), 8.64-8.66 (1H, m). MS (ES+) 334 (M+1).

reactant | 6,6-Dimethyl-3-methanesulphinyl-1-(pyrid-2-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 0.5 mmol, 160 mg | CC1(CC(C=2C(=C(SC2S(=O)C)C2=NC=CC=C2)C1)=O)C | C16H17NO2S2
reactant | sodium hydroxide | 0.55 mmol, 4M, 138 μL | [OH-].[Na+]
reactant | 2-Mercaptoethanol | 0.55 mmol, 43 mg | SCCO | C2H6OS
reactant | 2-mercaptoethanol | 0.12 mmol, 10 mg | SCCO | C2H6OS
reactant | sodium hydroxide | 0.12 mmol, 4M, 35 μL | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6,6-Dimethyl-3-((2-hydroxyethyl)thio)-1-(pyrid-2-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 58 mg, 36% | CC1(CC(C=2C(=C(SC2SCCO)C2=NC=CC=C2)C1)=O)C | C17H19NO2S2
